US04212796
(b1) Ddz-Ile-Cys(Trt)-Ser-Leu-Tyr(But)-Gln-Leu-Glu(OBut)-Asn-Tyr(But)-Cys(Trt)-Asn-OBut
3.4 g (16.4 mmoles) of DCCI are added at 0° C. to a solution of 22.8 g (14 mmoles) of H-Tyr(But)-Gln-Leu-Glu(OBut)-Asn-Tyr(But)-Cys(Trt)-Asn-OBut, 14.1 g (15.4 mmoles) of Ddz-Ile-Cys(Trt)-Ser-Leu-OH.1 H2O, 2.08 g (15.4 mmoles) of HOBt and 1.8 ml (14 mmoles) of N-ethylmorpholine in 70 ml of dimethylformamide. The mixture is stirred for 1 hour at 0° C. and 3 hours at room temperature and is then left to stand overnight at room temperature, and the precipitate is filtered off. The filtrate is concentrated in vacuo and the residue is successively triturated with NaHCO3 solution, citrate buffer (pH 3), NaHCO3 solution and water and is filtered off in each case. It is dried over P2O5.

reactant | DCCI | 16.4 mmoles, 3.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | H-Tyr(But)-Gln-Leu-Glu(OBut)-Asn-Tyr(But)-Cys(Trt)-Asn-OBut | 14 mmoles, 22.8 g | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C80H109N11O16S
reactant | Ddz-Ile-Cys(Trt)-Ser-Leu-OH | 15.4 mmoles, 14.1 g | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C1=CC(OC)=CC(OC)=C1 | C49H62N4O10S
reactant | HOBt | 15.4 mmoles, 2.08 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethylmorpholine | 14 mmoles, 1.8 ml | C(C)N1CCOCC1 | C6H13NO
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | Ddz-Ile-Cys(Trt)-Ser-Leu-Tyr(But)-Gln-Leu-Glu(OBut)-Asn-Tyr(But)-Cys(Trt)-Asn-OBut | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C1=CC(OC)=CC(OC)=C1 | C129H169N15O25S2
